US07855194B2
Step 1: 4-(4,6-Dimethoxy-[1,3,5]triazin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 2-chloro-4,6-dimethoxy-[1,3,5]triazine (1.35 g, 7.68 mmol, 1.0 equiv; commercially available) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (2.00 g, 9.98 mmol, 1.3 equiv; commercially available) in acetonitrile (16 mL) was heated by microwave irradiation to 160° C. for 20 min. The organic phase was concentrated under reduced pressure and the residue extracted with ethyl acetate (3×50 mL) from a solution of 1 M NaOH (200 mL). The combined organic phases were dried over MgSO4 and concentrated by evaporation under reduced pressure yielding 2.60 g (100%) of the title compound. MS (ISP): 340.4 [M+H]+.

reactant | 2-chloro-4,6-dimethoxy-[1,3,5]triazine | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
product | 4-(4,6-Dimethoxy-[1,3,5]triazin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.60 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC(=N1)OC)OC | C15H25N5O4
